US06660744B1
A mixture of 5-chloropyrimidine (5.00 g, 0.0437 mol), phenol (5.38 g, 57.2 mmol), dibenzo-18-crown-6 (0.84 g, 0.0023 mol) and ground potassium hydroxide (5.92 g, 0.1055 mol) in toluene (75 ml) was heated at reflux for 3 hours with azeotropic removal of water. The mixture was allowed to cool to ambient temperature and the solvent was removed under reduced pressure. The residue was partitioned between water and chloroform. The layers were separated and the aqueous phase was extracted with chloroform three times. The combined organic layers were dried over magnesium sulfate, filtered and evaporated to give 2-phenoxypyrimidine as a white powder (95% pure, 4.56 g, 0.0265 mol): 1H NMR (CDCl3, 400 MHz) 8.57 (d, 2H), 7.43 (t, 2H), 7.26 (t, 1H), 7.20 (d 2H); TLC (n-heptane/ethyl acetate=1:1) Rf 0.42.

reactant | 5-chloropyrimidine | 0.0437 mol, 5.00 g | ClC=1C=NC=NC1 | C4H3ClN2
reactant | phenol | 57.2 mmol, 5.38 g | C1(=CC=CC=C1)O | C6H6O
reactant | dibenzo-18-crown-6 | 0.0023 mol, 0.84 g | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
reactant | potassium hydroxide | 0.1055 mol, 5.92 g | [OH-].[K+]
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 2-phenoxypyrimidine | O(C1=CC=CC=C1)C1=NC=CC=N1 | C10H8N2O
